US06939871B2
1-Isoquinolinyloxyacetaldehyde (D22)
A mixture of 1-isoquinolinyloxyacetaldehyde dimethyl acetal (0.93 g, 4 mmol), dioxane (10 mL), water (15 mL) and conc. sulfuric acid (2 mmol) was heated at 85° C. for 2 h, then was quenched with saturated aqueous sodium hydrogen carbonate (100 mL). The resulting mixture was extracted with dichloromethane (2×100 mL) and the combined organic extracts were washed with saturated aqueous sodium hydrogen carbonate (50 mL), dried over sodium sulfate and evaporated in vacuo to give the title compound (0.43 g, 57%).

reactant | 1-isoquinolinyloxyacetaldehyde dimethyl acetal | 4 mmol, 0.93 g | COC(C)(OC1=NC=CC2=CC=CC=C12)OC | C13H15NO3
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | sulfuric acid | 2 mmol | S(O)(O)(=O)=O | H2O4S
solvent | water | 15 mL | O | H2O
product | 1-Isoquinolinyloxyacetaldehyde | 0.43 g, 57% | C1(=NC=CC2=CC=CC=C12)OC(C)=O | C11H9NO2
